US06476029B1
2-[2-Ethoxy-5-(4-methylpiperazine-1-sulphonyl)-phenyl]-5-ethyl-7-cyclopentyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one
0.42 g (0.92 mmol) of 3-(7-cyclopentyl-5-ethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-4-ethoxybenzenesulphonyl chloride are dissolved in 15 ml of dichloromethane and cooled to 0° C. After addition of a spatula tip of 4-dimethylaminopyridine, 0.28 g (2.76 mmol) of N-methylpiperazine are added, and the reaction mixture is stirred at room temperature overnight. The mixture is diluted with dichloromethane, the organic phase is washed with ammonium chloride solution and dried over sodium sulphate and the solvent is removed under reduced pressure. Crystallization from ether gives 0.395 g (80%) of a colourless solid.

reactant | 3-(7-cyclopentyl-5-ethyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-4-ethoxybenzenesulphonyl chloride | 0.92 mmol, 0.42 g | C1(CCCC1)C1=NC(=C2C(NC(=NN21)C=2C=C(C=CC2OCC)S(=O)(=O)Cl)=O)CC | C20H23ClN4O4S
reactant | N-methylpiperazine | 2.76 mmol, 0.28 g | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[2-Ethoxy-5-(4-methylpiperazine-1-sulphonyl)-phenyl]-5-ethyl-7-cyclopentyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 0.395 g, 80% | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C1=NN2C(C(N1)=O)=C(N=C2C2CCCC2)CC | C25H34N6O4S
